US07638515B2
5-{[6-Chloro-4,4-dimethyl-5-methoxy-2-hydroxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalin-1-yl]amino}-2-methylphthalazin-1-one
Analogously to Example 10, the corresponding imine is produced starting from 1.0 g of 4-(3-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 542 mg of 5-amino-2-methyl-phthalazin-1-one. As in Example 3, 840 mg of the imine is reacted by reaction with 43.6 ml of titanium tetrachloride (1 M in dichloromethane) in 40 ml of dichloromethane, and 114 mg of the title compound is obtained.

reactant | 4-(3-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.0 g | ClC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 5-amino-2-methyl-phthalazin-1-one | 542 mg | NC1=C2C=NN(C(C2=CC=C1)=O)C | C9H9N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 43.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[6-Chloro-4,4-dimethyl-5-methoxy-2-hydroxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalin-1-yl]amino}-2-methylphthalazin-1-one | 114 mg | ClC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=NN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C)OC | C23H23ClF3N3O3
